US06441017B1
Step C: Methyl {5-[1-(tert-butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate
To a stirred solution of N-(tert-butoxycarbonyl)-1-(4-cyano-3-fluoro-phenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethylamine, as described above in Step B, (2.6 g, 4.5 mmol), methyl glycolate (532 mg, 5.9 mmol), and N,N-diisopropylethyl-amine (1.6 g, 11.7 mmol) in dry CH2Cl2 (100 mL), under argon, at −78° C., was added trifluoromethanesulfonic anhydride (1.7 g, 5.9 mmol) dropwise. The mixture was allowed to warm slowly to ambient temperature, then the solvent was removed in vacuo. The residue was dissolved in MeOH (50 mL) and the solution was heated to reflux for 1 hour, then concentrated to dryness. The residue was purified by silica gel chromatography, eluting with EtOAc—2% MeOH—0.2% NH4OH. The product was further purified by preparative HPLC using a C-18 column and eluting with a gradient of H2O—0.2% triethylamine—0.1% AcOH—0% to 60% CH3CN to yield the titled product.

reactant | N-(tert-butoxycarbonyl)-1-(4-cyano-3-fluoro-phenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethylamine | C(C)(C)(C)OC(=O)NC(C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=C(C=C1)C#N)F | C36H33FN4O2
reactant | methyl glycolate | 4.5 mmol, 2.6 g | C(CO)(=O)OC | C3H6O3
reactant | N,N-diisopropylethyl-amine | 11.7 mmol, 1.6 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 5.9 mmol, 1.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl {5-[1-(tert-butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate | C(C)(C)(C)OC(=O)NC(C)(C1=CC(=C(C=C1)C#N)F)C1=CN=CN1CC(=O)OC | C20H23FN4O4
